2160-11-08 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2160-11-8**] 03:00 AM, cx
   EGD 7pm: old blood in stomach, no active bleeding; octreotide gtt D/C'd
   HCT 24, transfused 1 unit
   Methamphetamines positive on u tox
   This am, pt denies any methamphetamine or OTC medication use. Reports
   only taking prescription meds. Denies N/V. No B or emesis since
   admission. c/o diffuse abd. Pain, strongest under left rib, worse with
   deep breathing.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-11-8**] 01:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-8**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 103 (98 - 156) bpm
   BP: 126/69(82) {125/67(80) - 169/128(131)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,248 mL
                                                                    654 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                    973 mL
                                                                    604 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                    450 mL
                                                                    150 mL
   Urine:
                                                                    450 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General: WDWN, NAD, breathing comfortably on RA
   HEENT: PERRL, EOMI, icteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: tachycardic, regular, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB
   Abdomen: +BS, soft, c/o diffuse mild tenderness, no focality, unable to
   appreciate frank ascites or HSM, no spiders or caput, No rebound or
   guarding
   Extremities: warm, 2+ DP pulses, no edema
   Neuro: A&Ox3, speech clear and logical, CNII-XII intact, moves all
   extremities, no asterixis, mild tremulousness
   Labs / Radiology
   48 K/uL
   8.2 g/dL
   114 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   24.9 %
   4.4 K/uL
        [image002.jpg]
                            [**2160-11-7**]  06:00 PM
                            [**2160-11-7**]  08:15 PM
                            [**2160-11-8**]  04:42 AM
   WBC
   4.4
   Hct
   22.7
   24.0
   24.9
   Plt
   48
   Cr
   0.6
   TropT
   <0.01
   Glucose
   114
   Other labs: PT / PTT / INR:16.1/27.0/1.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:33/76, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:34/35, Albumin:3.4 g/dL, LDH:149 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   TSH 2.8 GGT 1477 Serum tox neg, urine tox pos methamphetamines
   Blood cx, urine cx no growth
   RUQ US read pending
   TTE pending
   EGD as above
   Assessment and Plan
   49M h/o EtOH cirrhosis, GI bleeding s/p variceal banding presents with
   tachycardia and ?GI bleeding.
   .
   # ?GI bleeding: Concern for upper GI bleed in patient with cirrhosis
   and portal hypertension with evidence of [**Doctor First Name **] [**Doctor Last Name **] tear on [**2160-8-29**]
   EGD, however no evidence of active bleeding on EGD. Likely had old
   bleed. Other possible sources include PUD (altough on max dose PPI as
   outpatient) or gastritis/esophagitis. Contribting factor is likely
   underlying coagulapathy and thrombocytopenia from liver disease.
   Octreotide DCd given no variceal bleed on EGD.No further bleeding since
   no BM or emesis.
   - PPI IV bid
   - Cipro IV for SBP ppx
   - F/U hepatology recs
   - Large bore PIV x2
   - T&X 2 units
   - Hct Q6H until demonstrate stability, transfuse <25
   - Keep Plt>50, INR<1.5 to avoid further bleeding
   - Hold nadolol until clear that is hemodynamically stable
   - Hepatology following
   .
   # Tachycardia: Sinus, most likely related to intravascular volume
   depletion due to emesis and poor PO intake and possibly GI bleeding;
   notably he was partially IVF responsive in the ED. Although denies EtOH
   use, per Hepatology there has been concern in past for indiscretion and
   electrolyte abnormalities on admission c/w alcohol use. Also consider
   infection since now has fever in patient with h/o ascites and reports
   of intermittent abdominal pain and subjective fevers. On nadolol as
   outpatient but no recent dose change to suggest beta-blocker
   withdrawal. Also consider PE especially given h/o portal thrombosis,
   however no other pulmonary symptoms or evidence DVT. Other possible
   etiology is methamphetamine use given + urine tox but pt denies.
   - Hold nadolol per above
   - NS resuscitationwill bolus prn
   - Ativan prn CIWA scale >8, has not been [**Doctor Last Name 93**] overnight but will
   give ativan since possible component of alcohol withdrawal
   - Telemetry
   - Liver U/S with dopplers per liver service
   - If ascites present, consider diagnostic para
   - F/U blood cultures, and U/A and culture
   - Cipro IV per above pending further data
   .
   Fever: ? infectious vs. 2/2 blood transfusion reaction since spiked at
   end of transfusion. Only localizing symptoms include abdominal pain,
   concern for SBP although minimal tenderness on exam. Will follow up RUQ
   US to aseess for ascities, ? tap.  CXR was normal. UA normal
   -          F/U RUQ uS, ? para
   -          FU blood and urine cx
   -          Follow fever curve
   .
   # Syncope: Differential includes vasovagal, orthostatic hypoperfusion,
   cardiogenic arrythmia, or seizure. Sinus tach supports intravascular
   volume depletion as likely cause. No prior h/o cardiac disease that
   would suggest malignant arrythmia and no current chest discomfort. No
   prior h/o seizure disorder or other CNS disease.
   - Orthostatics
   - Echo to eval valves, ?WMA
   - Cycle cardiac enzymes, serial ECGs
   - Check TSH, A1c, tox screens
   - EP to see in Sunday
   .
   # Chronic emesis: Consider GERD as etiology although on PPI
   chronically, or gastroparesis but no other known risk factors. EGD in
   past has not revealed another potential etiology.
   - Check A1c
   - Consider gastric empyting study to eval source of chronic emesis
   - Continue high dose PPI
   - Restart sucralfate post-EGD
   .
   # Cirrhosis:  Due to EtOH. Patient of Dr. [**Last Name (STitle) 6046**]. Has history of
   large ascites requiring [**Doctor First Name **]; also portal vein thrombosis. No current
   e/o obvious ascites. Now off EtOH. Had recent liver U/S with patent
   vessels.
   - Appreciate liver recs
   - Cipro per above
   - Hold nadolol, lactulose, sucralfate for now
   - Encourage Etoh abstinence
   - Continue home pancreatic enzymes
   .
   # Depression: Continue home citalopram.
   .
   # FEN: Advance to clears, IVF bolus prn tachycardia, Replete lytes prn
   and recheck in pm
   # Ppx: Pneumoboots, [**Hospital1 **] PPI.
   # Access: PIV x2
   # Code: FULL
   # Dispo: pending EGD, hemodynamics
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-7**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-11-08 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2160-11-8**] 03:00 AM, cx
   EGD 7pm: old blood in stomach, no active bleeding; octreotide gtt D/C'd
   HCT 24, transfused 1 unit
   Methamphetamines positive on u tox
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-11-8**] 01:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-8**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 103 (98 - 156) bpm
   BP: 126/69(82) {125/67(80) - 169/128(131)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,248 mL
                                                                    654 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                    973 mL
                                                                    604 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                    450 mL
                                                                    150 mL
   Urine:
                                                                    450 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   48 K/uL
   8.2 g/dL
   114 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   24.9 %
   4.4 K/uL
        [image002.jpg]
                            [**2160-11-7**]  06:00 PM
                            [**2160-11-7**]  08:15 PM
                            [**2160-11-8**]  04:42 AM
   WBC
   4.4
   Hct
   22.7
   24.0
   24.9
   Plt
   48
   Cr
   0.6
   TropT
   <0.01
   Glucose
   114
   Other labs: PT / PTT / INR:16.1/27.0/1.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:33/76, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:34/35, Albumin:3.4 g/dL, LDH:149 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-7**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-11-08 06:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2160-11-8**] 03:00 AM, cx
   EGD 7pm: old blood in stomach, no active bleeding; octreotide gtt D/C'd
   HCT 24, transfused 1 unit
   Methamphetamines positive on u tox
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-11-8**] 01:57 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-8**] 06:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 103 (98 - 156) bpm
   BP: 126/69(82) {125/67(80) - 169/128(131)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  1,248 mL
                                                                    654 mL
   PO:
             50 mL
   TF:
   IVF:
                                                                    973 mL
                                                                    604 mL
   Blood products:
                                                                    275 mL
   Total out:
                                                                    450 mL
                                                                    150 mL
   Urine:
                                                                    450 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    798 mL
                                                                    504 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   General: WDWN, NAD, breathing comfortably on RA
   HEENT: PERRL, EOMi, anicteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: tachycardic, regular, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB
   Abdomen: +BS, soft, nontender, nondistended, unable to appreciate
   ascites or HSM, no spiders or caput
   Extremities: warm, 2+ DP pulses, no edema
   Neuro: A&Ox3, speech clear and logical, CNII-XII intact, moves all
   extremities, no asterixis, mild tremulousness
   Labs / Radiology
   48 K/uL
   8.2 g/dL
   114 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.2 mEq/L
   6 mg/dL
   102 mEq/L
   137 mEq/L
   24.9 %
   4.4 K/uL
        [image002.jpg]
                            [**2160-11-7**]  06:00 PM
                            [**2160-11-7**]  08:15 PM
                            [**2160-11-8**]  04:42 AM
   WBC
   4.4
   Hct
   22.7
   24.0
   24.9
   Plt
   48
   Cr
   0.6
   TropT
   <0.01
   Glucose
   114
   Other labs: PT / PTT / INR:16.1/27.0/1.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:33/76, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:34/35, Albumin:3.4 g/dL, LDH:149 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.5 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   49M h/o EtOH cirrhosis, GI bleeding s/p variceal banding presents with
   tachycardia and ?GI bleeding.
   .
   # ?GI bleeding: Concern for upper GI bleed in patient with cirrhosis
   and portal hypertension with evidence of [**Doctor First Name **] [**Doctor Last Name **] tear on [**2160-8-29**]
   EGD, however no evidence at that time of gastric or esophageal varices.
   Other possible sources include PUD (altough on max dose PPI as
   outpatient) or gastritis/esophagitis. Contribting factor is likely
   underlying coagulapathy and thrombocytopenia from liver disease.
   - PPI IV bid
   - Octreotide gtt
   - Cipro IV
   - EGD today to eval for source
   - Large bore PIV x2
   - T&X 2 units
   - Hct Q6H until demonstrate stability, transfuse <24
   - Keep Plt>50, INR<1.5
   - Hold nadolol until clear that is hemodynamically stable
   - Hepatology following
   .
   # Tachycardia: Sinus, most likely related to intravascular volume
   depletion due to emesis and poor PO intake and possibly GI bleeding;
   notably he was IVF responsive in the ED. Although denies EtOH use, per
   Hepatology there has been concern in past for indiscretion. Also
   consider infection in patient with h/o ascites and reports of
   intermittent abdominal pain and subjective fevers. On nadolol as
   outpatient but no recent dose change to suggest beta-blocker
   withdrawal. Also consider PE especially given h/o portal thrombosis,
   however no other pulmonary symptoms or evidence DVT.
   - Hold nadolol per above
   - NS resuscitation
   - Ativan prn CIWA scale >8
   - Telemetry
   - Liver U/S with dopplers per liver service
   - If ascites present, consider diagnostic para
   - Surveillance blood cultures, and U/A and culture
   - Cipro IV per above pending further data
   .
   # Syncope: Differential includes vasovagal, orthostatic hypoperfusion,
   cardiogenic arrythmia, or seizure. Sinus tach supports intravascular
   volume depletion as likely cause. No prior h/o cardiac disease that
   would suggest malignant arrythmia and no current chest discomfort. No
   prior h/o seizure disorder or other CNS disease.
   - Orthostatics
   - Echo to eval valves, ?WMA
   - Cycle cardiac enzymes, serial ECGs
   - Check TSH, A1c, tox screens
   .
   # Chronic emesis: Consider GERD as etiology although on PPI
   chronically, or gastroparesis but no other known risk factors. EGD in
   past has not revealed another potential etiology.
   - Check A1c
   - Consider gastric empyting study to eval source of chronic emesis
   - Continue high dose PPI
   - Restart sucralfate post-EGD
   .
   # Cirrhosis:  Due to EtOH. Patient of Dr. [**Last Name (STitle) 6046**]. Has history of
   large ascites requiring [**Doctor First Name **]; also portal vein thrombosis. No current
   e/o obvious ascites. Now off EtOH. Had recent liver U/S with patent
   vessels.
   - Appreciate liver recs
   - Cipro per above
   - Hold nadolol, lactulose, sucralfate for now
   - Encourage Etoh abstinence
   - Continue home pancreatic enzymes
   .
   # Depression: Continue home citalopram.
   .
   # FEN: NPO until EGD results, NS per above
   # Ppx: Pneumoboots, [**Hospital1 **] PPI.
   # Access: PIV x2
   # Code: FULL
   # Dispo: pending EGD, hemodynamics
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-7**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-11-09 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2160-11-8**] 08:30 AM
 ULTRASOUND - At [**2160-11-8**] 10:30 AM
   abd u/s from 1030 to 1200
   Repleting Lytes
   Multiple stools. Decreasing melena. Trace BRBPR.
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-11-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-9**] 03:45 AM
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: No dizziness, visual changes, headache, chest pain,
   shortness of breath, nausea  or vomiting. Pt reports chronic left abd
   pain. mild bandlike across abdomen. Worse with movement (twisting) and
   valsalva.
   Flowsheet Data as of  [**2160-11-9**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 94 (93 - 133) bpm
   BP: 135/62(81) {112/62(79) - 151/86(101)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,641 mL
                                                                    948 mL
   PO:
                                                                  1,370 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,271 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    850 mL
   Urine:
                                                                  1,350 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,041 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General: WDWN, NAD, breathing comfortably on RA
   HEENT: PERRL, EOMI, anicteric sclera, conjunctivave pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: tachycardic, regular, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB
   Abdomen: +BS, soft, non-tender, no frank ascites or HSM, No rebound or
   guarding
   Extremities: warm, 2+ DP pulses, no edema
   Neuro: A&Ox3, speech clear and logical, CNII-XII intact, moves all
   extremities, no asterixis, mild tremulousness
   Labs / Radiology
   58 K/uL
   8.2 g/dL
   100 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   3 mg/dL
   108 mEq/L
   138 mEq/L
   25.9 %
   2.9 K/uL
        [image002.jpg]
                            [**2160-11-7**]  06:00 PM
                            [**2160-11-7**]  08:15 PM
                            [**2160-11-8**]  04:42 AM
                            [**2160-11-8**]  10:10 AM
                            [**2160-11-8**]  04:30 PM
                            [**2160-11-8**]  10:13 PM
                            [**2160-11-9**]  05:17 AM
   WBC
   4.4
   2.9
   Hct
   22.7
   24.0
   24.9
   24.0
   23.8
   25.6
   25.9
   Plt
   48
   58
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   114
   100
   Other labs: PT / PTT / INR:15.9/27.0/1.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:33/76, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:34/35, Albumin:3.4 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   49M h/o EtOH cirrhosis, GI bleeding s/p variceal banding presents with
   tachycardia and ?GI bleeding.
   .
   # GI bleeding: Some evidence of [**Doctor First Name **] [**Doctor Last Name **] tear on EGD, no evidence
   of active bleeding . Likely had old bleed. Other possible sources
   include or gastritis/esophagitis. Positive underlying coagulapathy and
   thrombocytopenia. No further bleeding since no BM or emesis. Decreased
   melena this AM. Small BRBPR in setting of prior hx of hemorrhoids.
   - PPI IV bid
   - Cipro IV for SBP ppx
   - F/U hepatology recs
   - Large bore PIV x2
   - T&X 2 units
   - Will change Hct to  Q12-24H, transfuse if <25
   - Keep Plt>50, INR<1.5 to avoid further bleeding
   -  Restarting nadolol
   .
   # Sinus Tachycardia: DDx includes intravascular volume depletion
   (emesis vs poor PO intake vs possibly GI bleeding); Denies EtOH use,
   Also potentially rebound secondary to d/c of nadolol.  Other possible
   etiology is methamphetamine use given + urine tox but pt denies. Less
   likely DVT/PE given other potential causes more likely.  Afebrile.
   Minimal ascites to tap given less possibility of SBP (although pt has
   reported some mild abd pain).
   - NS resuscitationwill bolus prn
   - Ativan prn CIWA scale >8, (scores of 2 overnight)
   - Telemetry
   - F/U blood cultures, and U/A and culture
   - Cipro IV per above pending further data (although pt remains
   afebrile)
   - Restarting nadolol per above
   .
   # Syncope: DDx includes vasovagal, orthostatic hypotension, arrythmia,
   or seizure. Sinus tach supports intravascular volume depletion
   potential cause. No prior h/o cardiac disease that would suggest
   malignant arrythmia and no current chest discomfort. No prior h/o
   seizure disorder or other CNS disease. Orthostatics WNL. Echo WNL/
   - Orthostatics
   - Echo to eval valves, ?WMA
   - Consider check TSH, A1c, tox screens
   .
   # Chronic emesis: Consider GERD as etiology although on PPI
   chronically, or gastroparesis but no other known risk factors. EGD in
   past has not revealed another potential etiology.
   - Check A1c
   - Consider gastric empyting study to eval source of chronic emesis
   - Continue high dose PPI
   .
   # EtOH Cirrhosis:  Patient of Dr. [**Last Name (STitle) 6046**]. Has history of large
   ascites requiring [**Doctor First Name **]; also portal vein thrombosis. Minimal  ascites
   per U/S. Now off EtOH. Had recent liver U/S with patent vessels.
   - Appreciate liver recs
   - Cipro per above
   - Hold nadolol, lactulose, sucralfate for now
   - Encourage Etoh abstinence
   - Continue home pancreatic enzymes
   .
   # Depression: Stable. Continue home citalopram.
   .
   # FEN: Advance to clears, Replete lytes prn and recheck in pm
   # Ppx: Pneumoboots, [**Hospital1 **] PPI.
   # Access: PIV x2
   # Code: FULL
   # Dispo: d/c to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-7**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-11-09 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2160-11-8**] 08:30 AM
 ULTRASOUND - At [**2160-11-8**] 10:30 AM
   abd u/s from 1030 to 1200
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-11-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-9**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-9**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 94 (93 - 133) bpm
   BP: 135/62(81) {112/62(79) - 151/86(101)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,641 mL
                                                                    948 mL
   PO:
                                                                  1,370 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,271 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    850 mL
   Urine:
                                                                  1,350 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,041 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   58 K/uL
   8.2 g/dL
   100 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   3 mg/dL
   108 mEq/L
   138 mEq/L
   25.9 %
   2.9 K/uL
        [image002.jpg]
                            [**2160-11-7**]  06:00 PM
                            [**2160-11-7**]  08:15 PM
                            [**2160-11-8**]  04:42 AM
                            [**2160-11-8**]  10:10 AM
                            [**2160-11-8**]  04:30 PM
                            [**2160-11-8**]  10:13 PM
                            [**2160-11-9**]  05:17 AM
   WBC
   4.4
   2.9
   Hct
   22.7
   24.0
   24.9
   24.0
   23.8
   25.6
   25.9
   Plt
   48
   58
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   114
   100
   Other labs: PT / PTT / INR:15.9/27.0/1.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:33/76, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:34/35, Albumin:3.4 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-7**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2160-11-09 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2160-11-8**] 08:30 AM
 ULTRASOUND - At [**2160-11-8**] 10:30 AM
   abd u/s from 1030 to 1200
   Allergies:
   Lasix (Oral) (Furosemide)
   Rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2160-11-9**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2160-11-9**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2160-11-9**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.7
   HR: 94 (93 - 133) bpm
   BP: 135/62(81) {112/62(79) - 151/86(101)} mmHg
   RR: 24 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 68 Inch
             Total In:
                                                                  3,641 mL
                                                                    948 mL
   PO:
                                                                  1,370 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  2,271 mL
                                                                    748 mL
   Blood products:
   Total out:
                                                                  1,600 mL
                                                                    850 mL
   Urine:
                                                                  1,350 mL
                                                                    750 mL
   NG:
   Stool:
                                                                    250 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  2,041 mL
                                                                     98 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///21/
   Physical Examination
   General: WDWN, NAD, breathing comfortably on RA
   HEENT: PERRL, EOMI, icteric sclera, conjunctivae pink
   Neck: supple, trachea midline, no thyromegaly or masses, no LAD
   Cardiac: tachycardic, regular, s1s2 normal, no m/r/g, no JVD
   Pulmonary: CTAB
   Abdomen: +BS, soft, c/o diffuse mild tenderness, no focality, unable to
   appreciate frank ascites or HSM, no spiders or caput, No rebound or
   guarding
   Extremities: warm, 2+ DP pulses, no edema
   Neuro: A&Ox3, speech clear and logical, CNII-XII intact, moves all
   extremities, no asterixis, mild tremulousness
   Labs / Radiology
   58 K/uL
   8.2 g/dL
   100 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   3 mg/dL
   108 mEq/L
   138 mEq/L
   25.9 %
   2.9 K/uL
        [image002.jpg]
                            [**2160-11-7**]  06:00 PM
                            [**2160-11-7**]  08:15 PM
                            [**2160-11-8**]  04:42 AM
                            [**2160-11-8**]  10:10 AM
                            [**2160-11-8**]  04:30 PM
                            [**2160-11-8**]  10:13 PM
                            [**2160-11-9**]  05:17 AM
   WBC
   4.4
   2.9
   Hct
   22.7
   24.0
   24.9
   24.0
   23.8
   25.6
   25.9
   Plt
   48
   58
   Cr
   0.6
   0.5
   0.5
   TropT
   <0.01
   <0.01
   Glucose
   114
   100
   Other labs: PT / PTT / INR:15.9/27.0/1.4, CK / CKMB /
   Troponin-T:55//<0.01, ALT / AST:33/76, Alk Phos / T Bili:231/3.1,
   Amylase / Lipase:34/35, Albumin:3.4 g/dL, LDH:149 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   49M h/o EtOH cirrhosis, GI bleeding s/p variceal banding presents with
   tachycardia and ?GI bleeding.
   .
   # ?GI bleeding: Concern for upper GI bleed in patient with cirrhosis
   and portal hypertension with evidence of [**Doctor First Name **] [**Doctor Last Name **] tear on [**2160-8-29**]
   EGD, however no evidence of active bleeding on EGD. Likely had old
   bleed. Other possible sources include PUD (altough on max dose PPI as
   outpatient) or gastritis/esophagitis. Contribting factor is likely
   underlying coagulapathy and thrombocytopenia from liver disease.
   Octreotide DCd given no variceal bleed on EGD.No further bleeding since
   no BM or emesis.
   - PPI IV bid
   - Cipro IV for SBP ppx
   - F/U hepatology recs
   - Large bore PIV x2
   - T&X 2 units
   - Hct Q6H until demonstrate stability, transfuse <25
   - Keep Plt>50, INR<1.5 to avoid further bleeding
   - Hold nadolol until clear that is hemodynamically stable
   - Hepatology following
   .
   # Tachycardia: Sinus, most likely related to intravascular volume
   depletion due to emesis and poor PO intake and possibly GI bleeding;
   notably he was partially IVF responsive in the ED. Although denies EtOH
   use, per Hepatology there has been concern in past for indiscretion and
   electrolyte abnormalities on admission c/w alcohol use. Also consider
   infection since now has fever in patient with h/o ascites and reports
   of intermittent abdominal pain and subjective fevers. On nadolol as
   outpatient but no recent dose change to suggest beta-blocker
   withdrawal. Also consider PE especially given h/o portal thrombosis,
   however no other pulmonary symptoms or evidence DVT. Other possible
   etiology is methamphetamine use given + urine tox but pt denies.
   - Hold nadolol per above
   - NS resuscitationwill bolus prn
   - Ativan prn CIWA scale >8, has not been [**Doctor Last Name 93**] overnight but will
   give ativan since possible component of alcohol withdrawal
   - Telemetry
   - Liver U/S with dopplers per liver service
   - If ascites present, consider diagnostic para
   - F/U blood cultures, and U/A and culture
   - Cipro IV per above pending further data
   .
   Fever: ? infectious vs. 2/2 blood transfusion reaction since spiked at
   end of transfusion. Only localizing symptoms include abdominal pain,
   concern for SBP although minimal tenderness on exam. Will follow up RUQ
   US to aseess for ascities, ? tap.  CXR was normal. UA normal
   -          F/U RUQ uS, ? para
   -          FU blood and urine cx
   -          Follow fever curve
   .
   # Syncope: Differential includes vasovagal, orthostatic hypoperfusion,
   cardiogenic arrythmia, or seizure. Sinus tach supports intravascular
   volume depletion as likely cause. No prior h/o cardiac disease that
   would suggest malignant arrythmia and no current chest discomfort. No
   prior h/o seizure disorder or other CNS disease.
   - Orthostatics
   - Echo to eval valves, ?WMA
   - Cycle cardiac enzymes, serial ECGs
   - Check TSH, A1c, tox screens
   - EP to see in Sunday
   .
   # Chronic emesis: Consider GERD as etiology although on PPI
   chronically, or gastroparesis but no other known risk factors. EGD in
   past has not revealed another potential etiology.
   - Check A1c
   - Consider gastric empyting study to eval source of chronic emesis
   - Continue high dose PPI
   - Restart sucralfate post-EGD
   .
   # Cirrhosis:  Due to EtOH. Patient of Dr. [**Last Name (STitle) 6046**]. Has history of
   large ascites requiring [**Doctor First Name **]; also portal vein thrombosis. No current
   e/o obvious ascites. Now off EtOH. Had recent liver U/S with patent
   vessels.
   - Appreciate liver recs
   - Cipro per above
   - Hold nadolol, lactulose, sucralfate for now
   - Encourage Etoh abstinence
   - Continue home pancreatic enzymes
   .
   # Depression: Continue home citalopram.
   .
   # FEN: Advance to clears, IVF bolus prn tachycardia, Replete lytes prn
   and recheck in pm
   # Ppx: Pneumoboots, [**Hospital1 **] PPI.
   # Access: PIV x2
   # Code: FULL
   # Dispo: pending EGD, hemodynamics
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2160-11-7**] 08:32 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: